US04705785
2-Hydroxyethyl 3-Aminocrotonate
Anhydrous ammonia gas was bubbled through a solution of 2-hydroxyethyl 3-oxo-butyrate (25 g, 0.17 moles) (ref 5) and ethanol (250 mL) for 20 minutes. This solution was stirred for 16 hours at room temperature. The solvent was removed in vacuo and the resulting oil was chromatographed on silica gel (250 g) using ethyl acetate-hexane 60:40 as eluant. The enriched fractions were combined and the solvent removed in vacuo to give the product; H' NMR CDCl3 4.33 (t, 2H) 3.85 (t, 2H) 3.55 (s, 1H) 2.85 (broad singlet, 1H) 2.31 (s, 3H).

reactant | ammonia | N | H3N
reactant | 2-hydroxyethyl 3-oxo-butyrate | 0.17 moles, 25 g | O=C(CC(=O)OCCO)C | C6H10O4
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-Hydroxyethyl 3-Aminocrotonate | N\C(=C/C(=O)OCCO)\C | C6H11NO3
